US08957066B2
(E)-3-(1-((1-methylpiperidin-4-yl)methyl)-1H-pyrazol-4-yl)acrylic acid
An aqueous 3N sodium hydroxide solution (2 mL) was added to a solution of (E)-methyl 3-(1-((1-methylpiperidin-4-yl)methyl)-1H-pyrazol-4-yl)acrylate (220 mg) in MeOH (5 mL) and THF (3 mL) was added aq NaOH (3N, 2 mL) to saponify the methyl ester. Workup was performed as described in Example 12 to generate 209 mg of pure product (0.84 mmol, 100%).

reactant | sodium hydroxide | 3N, 2 mL | [OH-].[Na+]
reactant | (E)-methyl 3-(1-((1-methylpiperidin-4-yl)methyl)-1H-pyrazol-4-yl)acrylate | 220 mg | CN1CCC(CC1)CN1N=CC(=C1)/C=C/C(=O)OC | C14H21N3O2
reactant | NaOH | 3N, 2 mL | [OH-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (E)-3-(1-((1-methylpiperidin-4-yl)methyl)-1H-pyrazol-4-yl)acrylic acid | CN1CCC(CC1)CN1N=CC(=C1)/C=C/C(=O)O | C13H19N3O2
